US07329680B2
4-{5-Chloro-1-[4-(2,3-dihydro-indol-1-yl)-6-piperidin-1-yl-[1,3,5]-triazin-2-yl]-1H-indol-3-yl}-4-oxo-butyric acid
To a stirred solution of 4-{5-chloro-1-[4-(2,3-dihydro-indol-1-yl)-6-piperidin-1-yl-[1,3,5]-triazin-2-yl]-1H-indol-3-yl}-4-oxo-butyric acid 2-trimethylsilanyl-ethyl ester (0.198 g, 0.314 mmol) in dichloromethane (3 mL) was added trifluoroacetic acid (0.25 mL, 3.25 mmol). Upon completion (TLC 5% methanol in dichloromethane), the solution was concentrated in vacuo to yield the titled compound as a white solid. Rf 0.21 (5% methanol in dichloromethane); 1H NMR (THF-d8, 300 MHz) δ 9.04 (1H, s, ArH), 8.73 (1H, d, J=9 Hz, ArH), 8.39 (1H, d, J=2 Hz, ArH), 8.34 (1H, d, J=7 Hz, ArH), 7.32 (1H, dd, J=9, 2 Hz, ArH), 7.23-7.16 (2H, m, ArH), 6.95 (1H, t, J=7 Hz, ArH), 4.40 (2H, m, CH2), 3.97 (4H, m, CH2), 3.28-3.18 (4H, m, CH2, CH2), 2.71 (2H, t, J=6 Hz, CH2), 1.75-1.65 (6H, m, NCH2); ESI-LCMS e/z calculated for C28H27ClN6O3 530.183, found 531 (M+H)+, 553 (M+Na)+.

reactant | 4-{5-chloro-1-[4-(2,3-dihydro-indol-1-yl)-6-piperidin-1-yl-[1,3,5]-triazin-2-yl]-1H-indol-3-yl}-4-oxo-butyric acid 2-trimethylsilanyl-ethyl ester | 0.314 mmol, 0.198 g | C[Si](CCOC(CCC(=O)C1=CN(C2=CC=C(C=C12)Cl)C1=NC(=NC(=N1)N1CCC2=CC=CC=C12)N1CCCCC1)=O)(C)C | C33H39ClN6O3Si
reactant | trifluoroacetic acid | 3.25 mmol, 0.25 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-{5-Chloro-1-[4-(2,3-dihydro-indol-1-yl)-6-piperidin-1-yl-[1,3,5]-triazin-2-yl]-1H-indol-3-yl}-4-oxo-butyric acid | ClC=1C=C2C(=CN(C2=CC1)C1=NC(=NC(=N1)N1CCC2=CC=CC=C12)N1CCCCC1)C(CCC(=O)O)=O | C28H27ClN6O3
